US07956064B2
4-(phenylamino)thieno[3,2-c]quinoline-7-carbonitrile (1.0 eq, 27 mg, 0.0897 mmol) and hydroxylamine hydrochloride (10 eq, 62 mg, 0.892 mmol) and K2CO3 (10 eq, 124 mg, 0.896 mmol) were mixed in EtOH (0.5 ml) and the mixture heated under microwave at 100° C. for 10 min. The solid were removed by filtration and washed with EtOH. The solvents were removed in vacuo. The crude material was suspended in chloroform (0.5 ml). Ethyl chloroformate (20 ul) and triethylamine (20 ul) were added and the mixture stirred at room temperature for 10 min. CH2Cl2 was added and the organic phase was washed with brine. The organic phase was dried over Na2SO4 and the solvent removed. The crude material was suspended in NMP (1 ml) and heated under microwave at 160° C. for 10 min. The material was purified by preparative HPLC. Genevac evaporation afforded 3-(4-(phenylamino)thieno[3,2-c]quinolin-7-yl)-1,2,4-oxadiazol-5(4H)-one as an off-white solid (7 mg, 22% yield). LCMS (ES): 95% pure, m/z 361 [M+1]+.

reactant | 4-(phenylamino)thieno[3,2-c]quinoline-7-carbonitrile | 0.0897 mmol, 27 mg, 1.0 eq | C1(=CC=CC=C1)NC1=NC=2C=C(C=CC2C2=C1C=CS2)C#N | C18H11N3S
reactant | hydroxylamine hydrochloride | 0.892 mmol, 62 mg, 10 eq | Cl.NO
reactant | K2CO3 | 0.896 mmol, 124 mg, 10 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 0.5 ml | CCO | C2H6O
product | 3-(4-(phenylamino)thieno[3,2-c]quinolin-7-yl)-1,2,4-oxadiazol-5(4H)-one | 7 mg, 22% yield | C1(=CC=CC=C1)NC1=NC=2C=C(C=CC2C2=C1C=CS2)C2=NOC(N2)=O | C19H12N4O2S
